US05071999
a) Ethyl 10-hydroxy-1,4-diazatricyclo[6.3.0.02,6 ]-undecane-4-carboxylate
8.6 g (50 mmol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate are heated at 120° C. overnight with 6.6 g (50 mmol) of trans-4-hydroxyproline in 200 ml of dimethylformamide. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 50 mmol, 8.6 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | trans-4-hydroxyproline | 50 mmol, 6.6 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Ethyl 10-hydroxy-1,4-diazatricyclo[6.3.0.02,6 ]-undecane-4-carboxylate | OC1CC2CC3CN(CC3N2C1)C(=O)OCC | C12H20N2O3
